US09447091B2
N-(2′,4′-difluoro-5-(5-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-1H-benzo[d]-imidazol-1-yl)-[1,1′-biphenyl]-3-yl) methane sulfonamide
To a solution of N-(2′,4′-difluoro-5-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)-ethyl)-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)methanesulfonamide (0.15 g, 0.252 mmol) in methanol (5 ml) was added acetyl chloride (1 ml) at 0° C. as in Example 1(d). The solvent was distilled off to afford the product (0.063 g). 1H NMR (300 MHz, DMSO-d6): δ 8.64 (s, 1H), 8.22 (s, 1H), 8.00-7.97 (d, 2H), 7.80-7.69 (m, 2H), 7.67-7.61 (m, 1H), 7.59-7.60 (d, 1H), 7.53 (s, 2H), 7.47-7.41 (m, 2H), 7.29-7.25 (t, 1H), 4.97-4.95 (t, 1H), 4.18-4.15 (m, 2H), 3.80-3.78 (m, 2H), 3.14 (s, 3H) Calculated mass: 509.1; Observed mass: 510.3 [M+H]+ (rt: 1.18 min).

reactant | N-(2′,4′-difluoro-5-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)-ethyl)-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)methanesulfonamide | 0.252 mmol, 0.15 g | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)CCOC2OCCCC2)NS(=O)(=O)C | C30H29F2N5O4S
reactant | acetyl chloride | 1 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 5 ml | CO | CH4O
product | N-(2′,4′-difluoro-5-(5-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-1H-benzo[d]-imidazol-1-yl)-[1,1′-biphenyl]-3-yl) methane sulfonamide | 0.063 g | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)CCO)NS(=O)(=O)C | C25H21F2N5O3S
